### ISSUE TITLE
Suggest `by_cases` instead of `if` branch

### ISSUE THREAD

**Issue by paulcadman** [mathlib-initiative/TaskList#59]
We could add a linter to detect usage of `if` and suggest `by_cases` instead.

e.g detect:

```lean
example (P : Prop) [Decidable P] : P ∨ ¬ P := by
  if h : P then
    exact Or.inl h
  else
    exact Or.inr h
```

and suggest:

```lean
example (P : Prop) [Decidable P] : P ∨ ¬ P := by
  by_cases h : P
  · exact Or.inl h
  · exact Or.inr h
```

Originally suggested by @grunweg.
